US06015829
To a solution (20 ml) of ethyl 1-(3-cyano-4-neopentyloxyphenyl)pyrazole4-carboxylate (2 g) in ethanol was added 2 N aqueous sodium hydroxide solution (3.7 ml) with stirring, and the mixture was heated at 80° C. for 30 minutes. After the completion of the reaction, the reaction mixture was poured into water and neutralized with acetic acid. The precipitated crystals were recrystallized from a mixed solution of ethyl alcohol and water to give 0.7 g of 1-(3-cyano-4-neopentyloxyphenyl) pyrazole-4-carboxylic acid, melting point 199-200° C.

reactant | ethyl 1-(3-cyano-4-neopentyloxyphenyl)pyrazole4-carboxylate | 20 ml, 2 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)N1N=CC(=C1)C(=O)OCC | C18H21N3O3
reactant | sodium hydroxide | 2 N, 3.7 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-cyano-4-neopentyloxyphenyl) pyrazole-4-carboxylic acid | 0.7 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)N1N=CC(=C1)C(=O)O | C16H17N3O3
